US06500952B1
5-Amino-2-dimethylaminocarbonylbenzenesulfonamide
1 g of moist Raney nickel is added to a solution of 12.5 g of 2-dimethylaminocarbonyl-5-nitrobenzenesulfonamide in 250 ml of methanol, and thorough mixing is carried out at 60° C. under a hydrogen pressure of 50 bar. After the end of uptake of hydrogen, the catalyst is separated off and the filtrate is concentrated, giving 11.0 g of desired product.

reactant | 2-dimethylaminocarbonyl-5-nitrobenzenesulfonamide | 12.5 g | CN(C(=O)C1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)N)C | C9H11N3O5S
catalyst | Raney nickel | 1 g | [Ni] | Ni
solvent | methanol | 250 ml | CO | CH4O
product | 5-Amino-2-dimethylaminocarbonylbenzenesulfonamide | 11.0 g | NC=1C=CC(=C(C1)S(=O)(=O)N)C(=O)N(C)C | C9H13N3O3S
